US03947582
To a mixture of 1.0 gm. of 2-(4-bromomethyl-2-fluorophenyl)benzoxazole in 50 cc. of dry methanol which has been cooled in an ice-water bath is added 1.5 gm. of sodium cyanide. The reaction mixture is stirred cold for 10 minutes, allowed to warm to room temperature and finally heated on the steam bath. Solution of the starting material occurs and after 5 minutes reflux the reaction mixture is cooled, concentrated to about 25 cc., and poured into 100 cc. of ice cold 2.5 N hydrochloric acid. The resulting precipitate is filtered and air dried to give crude 4-(benzoxazol-2-yl)-3-fluorophenylacetonitrile.

reactant | 2-(4-bromomethyl-2-fluorophenyl)benzoxazole | BrCC1=CC(=C(C=C1)C=1OC2=C(N1)C=CC=C2)F | C14H9BrFNO
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | methanol | CO | CH4O
product | 4-(benzoxazol-2-yl)-3-fluorophenylacetonitrile | O1C(=NC2=C1C=CC=C2)C2=C(C=C(C=C2)CC#N)F | C15H9FN2O
